US07205328B2
Preparation of 5′-bromo-2-cyano-spiro[cyclopropane-1,3′-[3H]indol]-2′(1′H)-one
An excess of an ethereal diazomethane solution was added portion-wise from a syringe to a suspension of 5-bromo-1,2-dihydro-2-oxo-3H-indol-3-ylidene-acetonitrile (30 mg, 0.1 mmol), prepared as in Example 1, in dry ether (30 mL). The suspension was stirred at 0° C. for 2 hours. Excess diazomethane was quenched with two drops of acetic acid. The reaction mixture was concentrated to dryness in vacuo. The residue was dissolved in toluene (20 mL) and the resulting solution was heated to reflux for 6 hours. Upon removal of the solvents, the solid residue was chromatographed using hexane and ethyl acetate (v/v 1:1) as eluent, providing the title compound in 50% yield (15 mg). MS: m/z 263.2 [M+1]+. 1H NMR (CCl3D): δ 9.06 (br, 1H), 7.45 (m, 1H), 7.30 (br, 1H), 6.87(m, 1H), 2.50 (m, 1H), 2.16 (m, 1H), 1.93 (m, 1H).

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | 5-bromo-1,2-dihydro-2-oxo-3H-indol-3-ylidene-acetonitrile | 0.1 mmol, 30 mg | BrC=1C=C2C(C(NC2=CC1)=O)=CC#N | C10H5BrN2O
solvent | ether | 30 mL | CCOCC | C4H10O
product | 5′-bromo-2-cyano-spiro[cyclopropane-1,3′-[3H]indol]-2′(1′H)-one | 50% yield | BrC=1C=C2C3(C(NC2=CC1)=O)C(C3)C#N | C11H7BrN2O
